US06911463B2
{1,1-Dimethyl-2-[7-(2-pyrazin-2-yl-vinyl)-1H-indol-3-yl]-ethyl}-carbamic acid tert-butyl ester is prepared from [1,1-dimethyl-2-(7-trifluoromethanesulfonylmethyl-1H-indol-3-yl)-ethyl]-carbamic acid tert-butyl ester and 2-vinylpyrazine as described for the preparation of Amine 23 (99%). FDMS m/e=393.2 (M++1)

reactant | [1,1-dimethyl-2-(7-trifluoromethanesulfonylmethyl-1H-indol-3-yl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CC1=CNC2=C(C=CC=C12)CS(=O)(=O)C(F)(F)F)(C)C)=O | C19H25F3N2O4S
reactant | 2-vinylpyrazine | C(=C)C1=NC=CN=C1 | C6H6N2
product | {1,1-Dimethyl-2-[7-(2-pyrazin-2-yl-vinyl)-1H-indol-3-yl]-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CC1=CNC2=C(C=CC=C12)C=CC1=NC=CN=C1)(C)C)=O | C23H28N4O2
